US09169187B2
To chloro-bis(4-docosyloxyphenyl)methane (75.9 mg, 89.1 μmol) were added chloroform (1 ml), benzylamine (29.1 μl, 267 μmol) and N-ethyldiisopropylamine (45.7 μl, 267 μmol), and the mixture was stirred at room temperature overnight. The reaction mixture was warmed to 50° C. and stirred for 1 hr. The mixture was cooled to room temperature again, and washed successively with 0.5N hydrochloric acid, 10% aqueous sodium hydrogen carbonate and 20% brine. The organic layer was dehydrated with anhydrous sodium sulfate, chloroform was evaporated, and the residue was precipitated with methanol to give N-benzyl-[bis(4-docosyloxyphenyl)]methylamine (72 mg, 87%).

reactant | chloro-bis(4-docosyloxyphenyl)methane | 89.1 μmol, 75.9 mg | ClC(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC | C57H99ClO2
reactant | benzylamine | 267 μmol, 29.1 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | N-ethyldiisopropylamine | 267 μmol, 45.7 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzyl-[bis(4-docosyloxyphenyl)]methylamine | 72 mg, 87% | C(C1=CC=CC=C1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC | C64H107NO2
